US05486517
Step A: Preparation of Methyl 4-(1H-benzimidazol-2-yl)benzoate
A mixture of 1,2-diaminobenzene (6.59 g), methyl 4-formylbenzoate (10.0 g) and sodium bisulfite (6.60 g) in methanol (500 mL) is stirred at reflux for 6 hours. The mixture is filtered and the solvent evaporated to leave a yellow solid. This solid is recrystallized from ethyl acetate/ethanol to give 2.92 g of the title compound as an oil-white solid.

reactant | 1,2-diaminobenzene | 6.59 g | NC1=C(C=CC=C1)N | C6H8N2
reactant | methyl 4-formylbenzoate | 10.0 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | sodium bisulfite | 6.60 g | S([O-])(O)=O.[Na+]
solvent | methanol | 500 mL | CO | CH4O
product | Methyl 4-(1H-benzimidazol-2-yl)benzoate | 2.92 g | N1C(=NC2=C1C=CC=C2)C2=CC=C(C(=O)OC)C=C2 | C15H12N2O2
